US08604034B2
7-bromo-10a-(4-methoxyphenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (100 mg, 0.28 mmol), zinc cyanide (50 mg, 0.42 mmol) and palladium(0) tetrakistriphenylphosphine (32 mg, 0.03 mmol) were suspended in dry DMF (3 mL) in a microwave vial flushed with argon. The mixture was heated in the microwave reactor at 160° C. for 20 minutes. A saturated aqueous solution of NaHCO3 (50 mL) was added and the mixture extracted with CH2Cl2 containing 20% of isopropyl alcohol. The organic layers were dried (MgSO4), filtrated and concentrated in vacuo. The resulting residue was purified by flash chromatography (Biotage SP4, 12 g cartridge, gradient 0-5% methanol in CH2Cl2) to give 10a-(4-methoxyphenyl)-5-oxo-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazine-7-carbonitrile (50 mg, yield 58%) ESI-MI m/z [M+H]+ 308.9. Used in the next step without further purification.

reactant | 7-bromo-10a-(4-methoxyphenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 0.28 mmol, 100 mg | BrC=1C=C2N(CC3(N(C2=O)CCN3)C3=CC=C(C=C3)OC)C1 | C16H16BrN3O2
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 0.42 mmol, 50 mg | [C-]#N.[Zn+2].[C-]#N
product | 10a-(4-methoxyphenyl)-5-oxo-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazine-7-carbonitrile | 50 mg, yield 58% | COC1=CC=C(C=C1)C12N(C(C=3N(C1)C=C(C3)C#N)=O)CCN2 | C17H16N4O2
